US04236004
7,8-dihydro-5-hydroxy-7-oxo-2-phenyl-8-propylpyrido[2,3-d]pyrimidine-6-carboxylic acid ethyl ester
50 ml. of NaOEt (0.24 g.-0.011 mole) was added to 1.7 g. (0.011 mole) of ethyl malonate and stirred 10 minutes, then evaporated to dryness. DMF was added until a solution formed and 1.5 g. (0.005 mole) of 7-phenyl-1-propyl-2H-pyrimido[4,5-d][1,3]oxazine-2,4(1H)-dione was added and the mixture refluxed 2 hours. The chilled reaction was poured into dilute HCl and the resulting precipitate filtered off and rinsed with water. Recrystallization from ethyl acetate gave 1.5 g. of the title compound--m.p. 164°-167° C.

reactant | NaOEt | -0.011 mole, 0.24 g | CC[O-].[Na+]
reactant | ethyl malonate | 0.011 mole | C(CC(=O)[O-])(=O)OCC
reactant | 7-phenyl-1-propyl-2H-pyrimido[4,5-d][1,3]oxazine-2,4(1H)-dione | 0.005 mole | C1(=CC=CC=C1)C=1N=CC2=C(N(C(OC2=O)=O)CCC)N1 | C15H13N3O3
reactant | HCl | Cl | ClH
product | 7,8-dihydro-5-hydroxy-7-oxo-2-phenyl-8-propylpyrido[2,3-d]pyrimidine-6-carboxylic acid ethyl ester | C(C)OC(=O)C1=C(C2=C(N=C(N=C2)C2=CC=CC=C2)N(C1=O)CCC)O | C19H19N3O4
